* r2r_dac_pex_tb.cir - the post-layout bench for the 2-bit ladder, typical
* corner (docs/design.md 1.5's ade pex_sim row). It runs on the
* magic-extracted, parasitic-annotated netlist of this run's own GDS;
* check_pex_sim.py fills in {pdk} and {extracted}.
*
* The same three codes as tb/r2r_dac_tb.cir, over one transient: blsb alone
* at 15n, bmsb alone at 25n, both at 35n. rm1 needs the res_<corner>
* section for its sheet resistance as well as the transistor one.
*
* Bounds are the ladder at the rung's current sizing (1:1, what
* sizing/sizing.yaml and the layout both carry; M8's spec wants 2:1 once
* optimise has run): 0.66V, 1.98V, 2.64V unloaded, +-3%.
.include '{pdk}/libs.tech/ngspice/design.spice'
.lib '{pdk}/libs.tech/ngspice/sm141064.spice' typical
.lib '{pdk}/libs.tech/ngspice/sm141064.spice' res_typical
.include '{extracted}'

vbmsb bmsb 0 PWL(0 0 19.9n 0 20n 3.3 40n 3.3)
vblsb blsb 0 PWL(0 0 9.9n 0 10n 3.3 19.9n 3.3 20n 0 29.9n 0 30n 3.3 40n 3.3)
xdut bmsb blsb vout r2r_dac

.control
tran 0.1n 40n
meas tran vout_lsb find v(vout) at=15n
meas tran vout_msb find v(vout) at=25n
meas tran vout_both find v(vout) at=35n
.endc
.end
